US07417065B2
To a solution of 2-(2-trifluoromethyl-biphenyl-4-yl)-thieno[2,3-b]pyridine-5-carbaldehyde (32 mg, 0.083 mmol) in MeOH (2 mL) is added β-alanine HCl salt (37 mg, 0.42 mmol) and triethylamine (23 uL, 0.16 mmol). The mixture is stirred at 50° C. for 20 minutes. Sodium borohydride (30 mg, 0.8 mmol) is added at room temperature and it is stirred for 10 minutes. The mixture is purified with preparative LCMS to give 22 mg of 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-thieno[2,3-b]pyridin-5-ylmethyl]-amino}-propionic acid, which is converted to HCl salt: 1H NMR (400 MHz, CD3OD) δ 8.56 (d, 1 H), 8.30 (d, 1 H), 8.08 (d, 1 H), 7.98 (dd, 1 H), 7.84 (s, 1 H), 7.42 (d, 1 H), 7.40-7.34 (m, 3 H), 7.30-7.24 (m, 2 H); MS (ES) 457.1 (M+H+).

reactant | 2-(2-trifluoromethyl-biphenyl-4-yl)-thieno[2,3-b]pyridine-5-carbaldehyde | 0.083 mmol, 32 mg | FC(C1=C(C=CC(=C1)C1=CC=2C(=NC=C(C2)C=O)S1)C1=CC=CC=C1)(F)F | C21H12F3NOS
reactant | β-alanine HCl salt | 0.42 mmol, 37 mg | Cl.NCCC(=O)O
reactant | triethylamine | 0.16 mmol, 23 uL | C(C)N(CC)CC | C6H15N
reactant | Sodium borohydride | 0.8 mmol, 30 mg | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-thieno[2,3-b]pyridin-5-ylmethyl]-amino}-propionic acid | 22 mg | FC(C1=C(C=CC(=C1)C1=CC=2C(=NC=C(C2)CNCCC(=O)O)S1)C1=CC=CC=C1)(F)F | C24H19F3N2O2S
